US04307036
53.1 g of p-methoxyphenylacetonitrile was alkylated with 51.4 g of isopropyl bromide in NaOH/H2O/toluene/Aliquot 336 at reflux for 24 hours. (See, for example, U.S. Pat. Nos. 4,056,509 and 4,144,264.) The crude product was hydrolyzed and demethylated in refluxing concentrated HBr to give α-isopropyl 4-hydroxyphenylacetic acid at 69% overall yeild. The hydroxy acid was alkylated with chlorodifluoromethane in the presence of sodium hydroxide and water according to the procedure set forth at page 2 of British Patent Application No. 2017668A to give crude α-isopropyl-4-difluoromethoxyphenylacetic acid at 62 wt%. 15.9 g of this acid was then reacted with 18.7 g of α-cyano-3-phenoxybenzyl bromide in a mixed solvent of sodium carbonate, water and toluene for 4 hours at 70° C. to give crude difluoromethoxy ester. This ester was purified by chromatography on a silica gel column to yield the final product having an isomer pair ratio of about 50/50.

reactant | p-methoxyphenylacetonitrile | 53.1 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | isopropyl bromide | 51.4 g | C(C)(C)Br | C3H7Br
reactant | HBr | Br | BrH
reactant | NaOH H2O toluene | [OH-].[Na+].O.C1(=CC=CC=C1)C
product | α-isopropyl 4-hydroxyphenylacetic acid | C(C)(C)C(C(=O)O)C1=CC=C(C=C1)O | C11H14O3
